US03989707
A mixture of 36 parts of methyl 4-(2-amino-4-chlorophenylamino)-2-methyl-1-piperidinecarboxylate and 14 parts of urea is stirred and heated in an oil-bath at 160° C. for 4 hours. After cooling, the reaction mixture is disslved in methylbenzene. The solution is washed successively three times with water, twice with a diluted hydrochloric acid solution and again three times with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silicagel, using trichloromethane as eluent. The pure fractions are collected and the eluent is evaporated, yielding methyl 4-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-2-methyl-1-piperidinecarboxylate as an oily residue.

reactant | methyl 4-(2-amino-4-chlorophenylamino)-2-methyl-1-piperidinecarboxylate | NC1=C(C=CC(=C1)Cl)NC1CC(N(CC1)C(=O)OC)C | C14H20ClN3O2
reactant | urea | NC(=O)N | CH4N2O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | methyl 4-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-2-methyl-1-piperidinecarboxylate | ClC1=CC2=C(N(C(N2)=O)C2CC(N(CC2)C(=O)OC)C)C=C1 | C15H18ClN3O3
